US09376418B2
A solution of THF:toluene (2.11 mL:2.11 mL) and n-BuLi (0.923 ml, 1.48 mmol) was cooled to −10° C. The reaction mixture was purged/filled with argon (3×). n-Butyl magnesium chloride (0.369 ml, 0.739 mmol) was added to the reaction mixture and stirred for 30 minutes. 3,5-Dibromopyridine (0.5 g, 2.111 mmol) was added to the reaction mixture over the course of 30 minutes, keeping bath below −10° C. and stirred for 1 hour. Ethyl 3-oxocyclopentanecarboxylate (0.330 g, 2.111 mmol) was added to the reaction mixture and stirred at −10° C. for ˜5 minutes. The reaction mixture was warmed to room temperature, diluted with saturated ammonium, extracted DCM (3×), and combined organic layers were concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) to afford ethyl 3-(5-bromopyridin-3-yl)-3-hydroxycyclopentanecarboxylate. MS ESI calc'd for C13H17BrNO3 [M+H]+ 314 and 316. found 314 and 316.

reactant | n-BuLi | 1.48 mmol, 0.923 ml | [Li]CCCC
reactant | n-Butyl magnesium chloride | 0.739 mmol, 0.369 ml | C(CCC)[Mg]Cl
reactant | 3,5-Dibromopyridine | 2.111 mmol, 0.5 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | Ethyl 3-oxocyclopentanecarboxylate | 2.111 mmol, 0.330 g | O=C1CC(CC1)C(=O)OCC | C8H12O3
solvent | ammonium | [NH4+]
solvent | toluene | 2.11 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 3-(5-bromopyridin-3-yl)-3-hydroxycyclopentanecarboxylate | BrC=1C=C(C=NC1)C1(CC(CC1)C(=O)OCC)O | C13H16BrNO3
